US07700625B2
Step 1: Synthesis of 2,4-bis-benzyloxy-5-bromo-benzoic acid benzyl ester
To a 10 L jacketed vessel, fitted with a flange lid containing stirrer, thermometer and dropping funnel, was charged acetone (2.5 L) followed by 5-bromo-2,4-dihydroxybenzoic acid (100 g, 0.43 mol) and potassium carbonate (356 g, 2.58 mol). To the stirring mixture at ambient was added benzyl bromide (185 mL, 1.55 mol) at a rate of ˜20 ml/min. The mixture was heated at 60° C. for 18 h and then taken to 45° C. Water (1.5 L) was added and the mixture stirred for 30 min. The mixture was extracted with EtOAc (2×1 L) and the combined organic portions reduced in vacuo. To the residue was added Et2O (200 mL) and petroleumether (1 L), the mixture stirred for 30 min and the solid formed collected by filtration and dried in vacuo to give the title compound (197.2 g) as a white solid.

reactant | acetone | 2.5 L | CC(=O)C | C3H6O
reactant | 5-bromo-2,4-dihydroxybenzoic acid | 0.43 mol, 100 g | BrC=1C(=CC(=C(C(=O)O)C1)O)O | C7H5BrO4
reactant | potassium carbonate | 2.58 mol, 356 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.55 mol, 185 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Water | 1.5 L | O | H2O
product | 2,4-bis-benzyloxy-5-bromo-benzoic acid benzyl ester | 197.2 g | C(C1=CC=CC=C1)OC(C1=C(C=C(C(=C1)Br)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C28H23BrO4
